US07759373B2
To a solution of 2-(4-chlorophenyl)-5-phenylthiazol-4-yl acetamide (3.4 g) and phosphorus oxychloride (3 ml) in chloroform (50 ml) was added one drop of pyridine, and the mixture was refluxed for 8 hours. Cold diluted aqueous ammonia was poured into the mixture and the organic layer was collected. After removing the solvent under reduced pressure, ethanol was added to the residue and crystal was collected by filtration to obtain 2-(4-chlorophenyl)-5-phenylthiazol-4-yl acetonitrile (3.1 g).

reactant | 2-(4-chlorophenyl)-5-phenylthiazol-4-yl acetamide | 3.4 g | ClC1=CC=C(C=C1)C=1SC(=C(N1)CC(=O)N)C1=CC=CC=C1 | C17H13ClN2OS
reactant | phosphorus oxychloride | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
product | 2-(4-chlorophenyl)-5-phenylthiazol-4-yl acetonitrile | 3.1 g | ClC1=CC=C(C=C1)C=1SC(=C(N1)CC#N)C1=CC=CC=C1 | C17H11ClN2S
